US09399639B2
Step 2) 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl pentanoate
To a suspension of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.3 g, 0.61 mmol) in anhydrous DMF (2.5 mL) was added KOH (69 mg, 1.23 mmol). The reaction was stirred at 10° C. for 30 min, followed by adding a solution of 1-chloroethyl pentanoate (0.1 g, 0.61 mmol) in anhydrous DMF (0.5 mL) dropwise over 30 min. The mixture was stirred at 10° C. for another 16 h, then diluted with EtOAc (40 mL) and filtered. The filtrate was concentrated in vacuo and the residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=7/1) to give the crude product. The crude product was recrystallized in PE/EtOAc (10/1) to give the title compound as a white solid (0.14 g, 37.8%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.61 mmol, 0.3 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | KOH | 1.23 mmol, 69 mg | [OH-].[K+]
reactant | 1-chloroethyl pentanoate | 0.61 mmol, 0.1 g | C(CCCC)(=O)OC(C)Cl | C7H13ClO2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl pentanoate | 0.14 g, 37.8% | C(CCCC)(=O)OC(C)N1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O | C30H30ClF2N3O5S
